US05462694
An objective product was prepared in the same manner as in Example 2 except that 2-(2-decylindan-5-yl)pyrimidine-5-ol was changed to 4-{2-(4-hexylphenyl)thiazole-5-yl}phenol and 3-phenylpropyl p-toluenesulfonate was changed to 4-phenylbutyl p-toluenesulfonate (Yield: 71.1%).

reactant | 2-(2-decylindan-5-yl)pyrimidine-5-ol | C(CCCCCCCCC)C1CC2=CC=C(C=C2C1)C1=NC=C(C=N1)O | C23H32N2O
reactant | 4-{2-(4-hexylphenyl)thiazole-5-yl}phenol | C(CCCCC)C1=CC=C(C=C1)C=1SC(=CN1)C1=CC=C(C=C1)O | C21H23NOS
reactant | 3-phenylpropyl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OCCCC1=CC=CC=C1)C | C16H18O3S
product | 4-phenylbutyl p-toluenesulfonate | Yield: 71.1% | C1(=CC=C(C=C1)S(=O)(=O)OCCCCC1=CC=CC=C1)C | C17H20O3S
